US07157488B2
3-(Pyridin-2-ylamino)-benzaldehyde
Dissolve (3-[1,3]dioxolan-2-yl-phenyl)-pyridin-2-yl-amine (10.32 g, 42.6 mmol) in THF (150 mL). Add concentrated HCl solution (37.5 mL) and stir the solution at room temperature overnight. Concentrate the reaction, treat with water, and extract with CH2Cl2. Wash the organic extract with water, dry (Na2SO4) and concentrate to give the crude product. Purification by flash chromatography (hexanes/EtOAc (7:3)) provides the title compound as a yellow solid.

reactant | (3-[1,3]dioxolan-2-yl-phenyl)-pyridin-2-yl-amine | 42.6 mmol, 10.32 g | O1C(OCC1)C=1C=C(C=CC1)NC1=NC=CC=C1 | C14H14N2O2
reactant | HCl | 37.5 mL | Cl | ClH
reactant | water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-(Pyridin-2-ylamino)-benzaldehyde | N1=C(C=CC=C1)NC=1C=C(C=O)C=CC1 | C12H10N2O
